US04782064
6-Amino-2-(4-bromobutyl)-1H-benz[de]isoquinoline-1,3(2H)-dione
A suspension of 10.6 g of 6-amino-1H-benz[de]-isoquinoline-1,3(2H)-dione in 250 ml of dimetnylformamide was stirred as 2.6 g of 50% sodium hydride in mineral oil was added. The initial orange suspension turned deep red in color. After ten minutes, a solution of 27 g of 1,4-dibromobutane in 50 ml of dimethylformamide was added. A slightly exothermic reaction was noted, and a deep red solution resulted. The mixture was then stirred at room temperature for sixteen hours, and drowned into 600 ml of cold water. A tarry brown precipitate was obtained, and on standing, bright yellow crystals developed in the supernatant. These were collected and recrystallized from aqueous alcohol to yield the pure title compound mp 175°-176° C. The brown precipitate required several recrystallizations from aqueous alcohol to afford more of the pure title compound.

reactant | 6-amino-1H-benz[de]-isoquinoline-1,3(2H)-dione | 10.6 g | NC=1C=CC=2C(NC(C3=CC=CC1C23)=O)=O | C12H8N2O2
reactant | sodium hydride | 2.6 g | [H-].[Na+]
reactant | 1,4-dibromobutane | 27 g | BrCCCCBr | C4H8Br2
reactant | water | 600 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-Amino-2-(4-bromobutyl)-1H-benz[de]isoquinoline-1,3(2H)-dione | NC=1C=CC=2C(N(C(C3=CC=CC1C23)=O)CCCCBr)=O | C16H15BrN2O2
